*************************************************
**conventional_TSPC_DFF.sp
**conventional TSPC DFF code for REU 
**2024/06/25 LEE SUNA
*************************************************
.lib '/home/lib/tsmc018.prm' TT

**Set the constant variables like vdd, vss, tstep
.param vdd = 1.8 
.param trf = 10p
.param pmos_w = 0.54u
.param pmos_l = 0.18u
.param nmos_w = 0.36u
.param nmos_l = 0.18u
.param nmos_clk_l = 0.18u*2
* 바디 바이어스 전압 정의
.param V_bias_a2 = 0.5
.param V_bias_b3 = 0.5
.param V_bias_b4 = 0.5
.param V_bias_c2 = 0.5
.param V_bias_c3 = 0.5
.param V_bias_c4 = 0.5
.param V_bias_inv1 = 0.5
.param V_bias_inv2 = 0.5
.param V_bias_inv3 = 0.5

**Set the voltage node from voltage source, vdd, vss, current source
v_vdd		n_vdd		0		vdd
v_vss		n_vss		0		0
v_in		n_in		n_vss		pulse(0v	vdd	0	trf	trf	5n	10n) $ a=10%
v_clk		n_clk		n_vss		pulse(0v	vdd	250p	trf	trf	500p	1n) $ fclk=1GHz


** TSPC DFF with Adaptive Body Bias
* P-C2MOS stage
mp_A1	n_vdd	n_in	n_a23	n_vdd	pch	l=pmos_l w=pmos_w nf=1 m=1
mn_A2	n_vss	n_in	n_a23	vbias_n_a2	nch	l=nmos_l w=nmos_w nf=1 m=1

* N-precharge stage
mp_B1	n_vdd	n_clk	n_b12	n_vdd	pch	l=pmos_l w=pmos_w nf=1 m=1
mp_B2   n_b12   n_a23   n_b23   n_vdd   pch	l=pmos_l w=pmos_w nf=1 m=1
mn_B3	n_b34	n_a23	n_b23	vbias_n_b3	nch	l=nmos_l w=nmos_w nf=1 m=1
mn_B4	n_vss	n_clk	n_b34	vbias_n_b4	nch	l=nmos_l w=nmos_w nf=1 m=1

* N-C2MOS stage
mp_C1	n_vdd	n_b23	n_c12	n_vdd	pch	l=pmos_l w=pmos_w nf=1 m=1
mn_C2	n_c23	n_clk	n_c12	vbias_n_c2	nch	l=nmos_clk_l w=nmos_w nf=1 m=1
mn_C3   n_c34   n_ablue n_c23   vbias_n_c3   nch l=nmos_clk_l w=nmos_w nf=1 m=1
mn_C4	n_vss	n_b23	n_c34	vbias_n_c4	nch	l=nmos_l w=nmos_w nf=1 m=1

* inverter
mn_inv1	n_vss		n_c12		n_q		vbias_inv1	nch	l=nmos_l w=nmos_w nf=1 m=1
mp_inv1	n_vdd		n_c12		n_q		n_vdd		pch	l=pmos_l w=pmos_w nf=1 m=1

mn_inv2	n_vss		n_q		n_qb		vbias_inv2	nch	l=nmos_l w=nmos_w nf=1 m=1
mp_inv2	n_vdd		n_q		n_qb		n_vdd		pch	l=pmos_l w=pmos_w nf=1 m=1

* Blue line
mn_inv3	n_vss		n_a23		n_ablue		vbias_inv3	nch	l=nmos_l w=nmos_w nf=1 m=1
mp_inv3	n_vdd		n_a23		n_ablue		n_vdd		pch	l=pmos_l w=pmos_w nf=1 m=1

* body bias
vbias_n_a2 vbias_n_a2 0 dc V_bias_a2
vbias_n_b3 vbias_n_b3 0 dc V_bias_b3
vbias_n_b4 vbias_n_b4 0 dc V_bias_b4
vbias_n_c2 vbias_n_c2 0 dc V_bias_c2
vbias_n_c3 vbias_n_c3 0 dc V_bias_c3
vbias_n_c4 vbias_n_c4 0 dc V_bias_c4
vbias_inv1 vbias_inv1 0 dc V_bias_inv1
vbias_inv2 vbias_inv2 0 dc V_bias_inv2
vbias_inv3 vbias_inv3 0 dc V_bias_inv3





.option post node list	

.tran	0.01p	100n 

.MEASURE TRAN dff_power AVG P(v_vdd) from=50n to=100n

.END

